US07741341B2
21.0 mg (0.098 mmol) (1-Cyclopropyl-piperidin-4-ylamine-dihydrochloride were dissolved in 3 mL CH3CN and 3 mL water. 82.3 mg (0.98 mmol, 10 equiv.) NaHCO3 were added. Finally, a solution of 48.1 mg (0.098 mmol) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-trichloromethyl-1H-benzoimidazole-5-carboxylic acid methyl ester in 2 mL CH3CN was added and the resulting mixture was stirred vigorously for 3 h under reflux. The mixture was concentrated under reduced pressure. The residue was purified by preparative RP-HPLC (CH3CN/H2O gradient+0.05% formic acid) to give pure 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid in form of a colorless amorphous solid.

reactant | 1-Cyclopropyl-piperidin-4-ylamine-dihydrochloride | Cl.Cl.C1(CC1)N1CCC(CC1)N
reactant | NaHCO3 | 0.98 mmol, 82.3 mg, 10 equiv. | C(=O)(O)[O-].[Na+]
reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-trichloromethyl-1H-benzoimidazole-5-carboxylic acid methyl ester | 0.098 mmol, 48.1 mg | COC(=O)C1=CC2=C(N(C(=N2)C(Cl)(Cl)Cl)CC2=NOC(=C2)C=2SC(=CC2)Cl)C=C1 | C18H11Cl4N3O3S
solvent | CH3CN | 3 mL | CC#N | C2H3N
solvent | water | 3 mL | O | H2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=CC(=C2)C(=O)O)C(NC2CCN(CC2)C2CC2)=O | C25H24ClN5O4S
